US04592866
2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one hydrochloride
Hydrogen chloride gas was bubbled into a suspension of 150 g (0.61 mole) of sodium 2-[(1-methyl-3-pyrrolidinyl)oxy]-3-pyridinecarboxylate in 1 liter of chloroform until a pH of 6 was reached. To the stirred mixture was added 350 g (1.34 mole) of triphenylphosphine and 350 g (2.3 mole) of carbon tetrachloride and the resulting cloudy solution was stirred at reflux for 1.5 hr. About 100 ml of ethanol was added and the heat removed. The solution was stirred for 1 hour while cooling and 200 ml of isooctane was added. The solution was extracted 4 times with a total of 800 ml of dilute hydrochloric acid. The acid extracts were combined, made basic with sodium hydroxide and extracted with chloroform. The chloroform layer was separated and dried over sodium sulfate and concentrated. The residue was dissolved in a mixture of 500 ml each of isopropyl alcohol and isopropyl ether and acidified with ethereal hydrogen chloride. The resulting crystals weighed 82 g (49%). A portion was recrystallized from isopropyl alcohol, m.p. 149°-153° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | sodium 2-[(1-methyl-3-pyrrolidinyl)oxy]-3-pyridinecarboxylate | 0.61 mole, 150 g | CN1CC(CC1)OC1=NC=CC=C1C(=O)[O-].[Na+]
reactant | triphenylphosphine | 1.34 mole, 350 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 2.3 mole, 350 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one hydrochloride | Cl.ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | InChI=1S/C11H13ClN2O2.ClH/c1-14-7-8(4-5-12)16-10-9(11(14)15)3-2-6-13-10;/h2-3,6,8H,4-5,7H2,1H3;1H
